US06478979B1
CF3C(O)CF2CF3—1,1,1,3,3,4,4,4-Octafluorobutan-2-one
1341 g of sec-butyl acetate was fluorinated using essentially the same procedure as described in U.S. Pat. No. 5,488,142 (Fall et al.). The resulting perfluorinated ester (688 g) was isolated from the reaction mixture by fractionation. The ester was then decomposed according to the method described by Moore in U.S. Pat. No. 5,466,877 wherein the ester was added dropwise to a 1-liter, 3-neck flask equipped with a magnetic stirrer, dry ice condenser and temperature probe containing 0.5 mL of pyridine. The pot temperature was maintained at about −10° C., during which time the conversion to the ketone occurred. The gaseous ketone product was fractionated to give 435 g. of 1,1,1,3,3,4,4,4-octafluoro-butan-2-one, having a boiling point of 0° C., with purity of 99.7% as determined by gas chromatography and mass spectroscopy.

reactant | 1,1,1,3,3,4,4,4-octafluoro-butan-2-one | FC(C(C(C(F)(F)F)(F)F)=O)(F)F | C4F8O
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | CF3C(O)CF2CF3 1,1,1,3,3,4,4,4-Octafluorobutan-2-one | C(F)(F)(F)C(=O)C(F)(F)C(F)(F)F.FC(C(C(C(F)(F)F)(F)F)=O)(F)F | 2C4F8O
